* C:\Users\idmsx\Documents\Git\WSN\Sensors\Solar Irradiance\LTspice\Irradiance_Amplifier_Circuit.asc
XU1 V+ V- N001 0 Vout LM324
R1 V- 0 2k
R2 Vout V- 100k
R3 Vin V+ 100k
C1 0 V+ 0.1µF
VS Vin 0 0000
Vcc N001 0 5V
.include LM324.txt
.dc VS 0.001 0.060 0.001
.backanno
.end
