* C:\Users\idmsx\Documents\LTspice\PT100_Amplifier_Circuit.asc
XU1 N002 N001 V+ 0 Vout LM324
R1 Vout N001 15K pwr=0.1
R3 N002 Vin 22k pwr=0.1
R4 N001 0 1K pwr=0.1
R5 V+ N001 22k pwr=0.1
R6 V+ Vin 1.8k pwr=0.1
RTD100 0 Vin {R}
V1 V+ 0 5V
C1 0 Vin 1µF
.include LM324.txt
.step param R 100 138.51 0.39
.op
.backanno
.end
